data/pmechdb/original/mc_train_fold0/raw/train.txt
C1CC2C=CC[C:20]3(CCC[C:10]2(C1)[CH:11]3[O-:12])[Br:21].[Li+].[AlH3]>>C1CC2C=CC[C:20]3([C:10]2(C1)CCC3)[CH:11]=[O:12].[Br-:21].[Li+].[AlH3] 10,11=10,20;20,21=21;12=11
C[P+](C)(C)[CH:21]=[CH2:20].[NH3:10]>>C[P+](C)(C)[CH-:21][CH2:20][NH3+:10] 10=20;20,21=21
[Li-:8]([NH+:4]([CH:2]([CH3:1])[CH3:3])[CH:5]([CH3:6])[CH3:7])[N+:9](=[C:18]1[CH:19]=[C:20]([CH2:22][CH2:23][CH:24]1[CH2:25][CH2:26][CH2:27][CH:28]([O:29][CH3:30])[O:31][CH3:32])[CH3:21])[N:10]2[CH2:11][CH2:12][CH2:13][CH:14]2[CH2:15][O:16][CH3:17].[I-:33]>>[Li:8][NH+:4]([CH:2]([CH3:1])[CH3:3])[CH:5]([CH3:6])[CH3:7].[CH3:21][C:20]1=[CH:19][C:18](=[N:9][N:10]2[CH2:11][CH2:12][CH2:13][CH:14]2[CH2:15][O:16][CH3:17])[CH:24]([CH2:23][CH2:22]1)[CH2:25][CH2:26][CH2:27][CH:28]([O:29][CH3:30])[O:31][CH3:32].[I-:33] 8,9=9
C1=CC=C(C=C1)C(=O)[C:20](C2=CC=CC=C2)([NH:10]CCN)[OH2+:21].CC(=O)[O-]>>C1=CC=C(C=C1)[C:20](=[NH+:10]CCN)C(=O)C2=CC=CC=C2.[OH2:21].CC(=O)[O-] 10=20;20,21=21
CC(=[C:11]=[CH2:10])[Si](C)(C)C.C1=CC=C(C=C1)CC[CH:20]=[O+:21][Ti-](Cl)(Cl)(Cl)Cl>>CC(=[C+:11][CH2:10][CH:20](CCC1=CC=CC=C1)[O:21][Ti-](Cl)(Cl)(Cl)Cl)[Si](C)(C)C 10,11=10,20;20,21=21
C1C[C:20](=[O:21])CC2C1CCN2CCS(=O)C3=CC=CC=C3.C1=CC=C(C=C1)N[NH2:10].CC(=O)O>>C1C[C:20](CC2C1CCN2CCS(=O)C3=CC=CC=C3)([NH2+:10]NC4=CC=CC=C4)[O-:21].CC(=O)O 10=20;20,21=21
C[Si-:10](C)(C)([F:11])Cl>>C[Si:10](C)(C)Cl.[F-:11] 10,11=11
[H:20][O:21]C(=O)CC1=CC=C(C=C1)N(=O)=O.CCOC(=O)NN(C(=[O:10])OCC)P(C1=CC=CC=C1)(C2=CC=CC=C2)(C3=CC=CC=C3)OC(C#N)C4=CC=CC=C4>>[H:20][O+:10]=C(N(NC(=O)OCC)P(C1=CC=CC=C1)(C2=CC=CC=C2)(C3=CC=CC=C3)OC(C#N)C4=CC=CC=C4)OCC.C1=CC(=CC=C1CC(=O)[O-:21])N(=O)=O 10=20;20,21=21
CC1=CC=C(C=C1)CC(C2=CC=CC=C2)O.C1=CC=C(C=C1)CC(C2=CC=CC=C2)([C:20]([C:21]#N)(C3=CC=CC=C3)[O-:10])O>>CC1=CC=C(C=C1)CC(C2=CC=CC=C2)O.[C-:21]#N.C1=CC=C(C=C1)CC(C2=CC=CC=C2)([C:20](=[O:10])C3=CC=CC=C3)O 10=20;20,21=21
CC1CCC2C1C(=[O:10])C2.[Zn:20](I)I.C[Si](C)(C)I>>CC1CCC2C1C(=[O+:10][Zn-:20](I)I)C2.C[Si](C)(C)I 10=20,
[H:20][CH:21]1[CH:22](C(=[NH+]C2=C1C3CC(C2)C3(C)C)C4=C(C=CC=C4)F)[N+:23]5=CC=CC=C5.CC(=O)[O-:10].O.[I-]>>[H:20][O:10]C(=O)C.CC1(C2CC1C3=C(C2)[NH+]=C([CH:22]=[CH:21]3)C4=C(C=CC=C4)F)C.C1=CC=[N:23]C=C1.O.[I-] 10=20;22,23=23;20,21=21,22
[H:20][C:21](C)(CC)C#N.[NH2-:10]>>[H:20][NH2:10].CC[C-:21](C)C#N 10=20;20,21=21
[H:20][OH+:21][Al-](OC1CC23C(=CC(=O)N2CCC4=C3C=C(C=C4)OC)C=C1)(OC(C)C)OC(C)C.[OH2:10].CC(C)O.CC(=O)C.[OH3+]>>[H:20][OH2+:10].CC(C)O[Al-]([OH:21])(OC1CC23C(=CC(=O)N2CCC4=C3C=C(C=C4)OC)C=C1)OC(C)C.CC(C)O.CC(=O)C.[OH3+] 10=20;20,21=21
[H:20][CH:21]([C:22](=[O:23])C1=C(C=CC=C1)F)[N+]2=CC=CC=C2.CC(=O)[O-:10].CC1(C2CC1C(=C)C(=O)C2)C.[NH4+].[I-]>>[H:20][O:10]C(=O)C.C1=CC=[N+](C=C1)[CH:21]=[C:22](C2=C(C=CC=C2)F)[O-:23].CC1(C2CC1C(=C)C(=O)C2)C.[NH4+].[I-] 10=20;22,23=23;20,21=21,22
C[C:20](CC=[N+]1CCCCC1)([O-:10])[Cl:21]>>C[C:20](=[O:10])CC=[N+]1CCCCC1.[Cl-:21] 10=20;20,21=21
CC[OH:10].C[C:20](=[OH+:21])Cl>>CC[OH+:10][C:20](C)([OH:21])Cl 10=20;20,21=21
[CH:20](=[OH+:21])O.[Cl-:10]>>[CH:20](O)([OH:21])[Cl:10] 10=20;20,21=21
[H:20][O:21]C(=O)C.COC1=C(C=CC(=C1)N2CCC(CC2)([NH+]3CCCC(C3)O)[O-:10])[N+](=O)[O-].CCN(CC)CC>>[H:20][O:10]C1(CCN(CC1)C2=CC(=C(C=C2)[N+](=O)[O-])OC)[NH+]3CCCC(C3)O.CC(=O)[O-:21].CCN(CC)CC 10=20;20,21=21
C1=CC=C([CH:11]=[CH:10]1)C(F)(F)F.O[S+:20](=O)=O>>C1=C[CH:10]([CH+:11]C(=C1)C(F)(F)F)[S:20](=O)(=O)O 10,11=10,20
CC1(CC2C1CC[C:20](=[O+:21]C)C3CCC2C3)C.[OH2:10]>>CC1(CC2C1CC[C:20](C3CCC2C3)([OH2+:10])[O:21]C)C 10=20;20,21=21
C1=CC=C(C=C1)C(C2=CC=CC=C2)(C3=CC=CC=C3)N4C=N[C:20]([N-:10]4)([N+:21](=O)[O-])OCCCOC5=CC(=CC=C5)C#N.[HH].[Na+]>>C1=CC=C(C=C1)C(C2=CC=CC=C2)(C3=CC=CC=C3)N4C=N[C:20](=[N:10]4)OCCCOC5=CC(=CC=C5)C#N.[N:21](=O)[O-].[HH].[Na+] 10=20;20,21=21
CC12CC[C:11](=[CH:10][C:20]1(CCCC2=O)[OH2+:21])[N:12]3CCCC3.C1CCNC1>>CC12CC[C:11](=[N+:12]3CCCC3)[CH:10]=[C:20]1CCCC2=O.[OH2:21].C1CCNC1 10,11=10,20;20,21=21;12=11
CC1([CH:20]([O:21]1)C(C(=O)OC)C(=O)OC)C.COC(=O)[CH-:10]C(=O)OC.C(=O)(O)[O-].[Cl-]>>CC(C)([CH:20](C(C(=O)OC)C(=O)OC)[CH:10](C(=O)OC)C(=O)OC)[O-:21].C(=O)(O)[O-].[Cl-] 10=20;20,21=21
[H:20][CH:21](C)[CH:22]=[N+:23](C)C.CC[NH2:10]>>[H:20][NH2+:10]CC.C[CH:21]=[CH:22][N:23](C)C 10=20;22,23=23;20,21=21,22
[H:20][O+:21](CCC(=C)C)C(C)(C)CCO.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CC(=C)CC[O:21]C(C)(C)CCO 10=20;20,21=21
CC1(C(=O)CCC[C:20]1=[O:21])CC[C:11](=[CH2:10])[N:12]2CCCC2.C1CC[NH2+]C1.O>>CC12CC[C:11](=[N+:12]3CCCC3)[CH2:10][C:20]1(CCCC2=O)[O-:21].C1CC[NH2+]C1.O 10,11=10,20;20,21=21;12=11
[H:20][O:21]C(=O)CNC(=O)C1=CC=CC=C1.C(=O)([O-:10])O[K].CC(=O)OC(=O)C.COC1=C(C(=CC=C1)O)C=O.[K+]>>[H:20][O:10]C(=O)O[K].C1=CC=C(C=C1)C(=O)NCC(=O)[O-:21].CC(=O)OC(=O)C.COC1=C(C(=CC=C1)O)C=O.[K+] 10=20;20,21=21
[Li-:10]([O+:11]=C(C1CCCC1N(C(C)C)C(C)C)OC)Br>>[Li:10]Br.CC(C)N(C1CCCC1C(=[O:11])OC)C(C)C 10,11=11
[H:20][O+:21]=CC1CCC2(CC1)OCCO2.CC(=O)[O-:10].CO.O>>[H:20][O:10]C(=O)C.C1CC2(CCC1C=[O:21])OCCO2.CO.O 10=20;20,21=21
[H:20][OH:21].COC1=C(C2=C(CC3C4(C2(CCN3CC5CC5)C=CCC4)O)C=C1)[O-:10].N#N.[K+]>>[H:20][O:10]C1=C(C=CC2=C1C34CCN(C(C2)C3(CCC=C4)O)CC5CC5)OC.[OH-:21].N#N.[K+] 10=20;20,21=21
